US04116956
To a suspension of 2.84 parts of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in 50 parts by volume of acetic anhydride is added 1 part by volume of concentrated sulfuric acid. The resulting solution is left standing at room temperature for 1 hour, poured in ice-water, neutralized with sodium bicarbonate and extracted with methylene chloride. The methylene chloride extract is washed with water and dried over anhydrous sodium sulfate, followed by evaporation of the solvent. The residue is recrystallized from a mixture of acetone and n-hexane to give 8-chloro-1-methyl-6-phenyl-4H-s-triazolo [4,3-a]][1,4] benzodiazepine as colorless needles. Melting point: 224° C to 225° C.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | [1,4] benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
